US04806141
3-Hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (3.12 g; 12.0 mmole) was added to a solution of sodium hydride (0.47 g of 60% w/w; 12.0 mmole) in dry dimethylformamide (10 ml) under an atmosphere of nitrogen. The mixture was stirred until a solution had been obtained and then propionic anhydride (1.74 g) was added dropwise and the mixture was heated to 120° C. The mixture was stirred at 120° C. under nitrogen for a period of 2 hours and then the solvent was evaporated under reduced pressure. The mixture was poured into water, basified with sodium hydroxide and stirred at room temperature for 30 minutes. The aqueous mixture was then acidified to pH 6.0 with dilute hydrochloric acid and extracted with diethyl ether. The ether phase was washed successively with water, dilute aqueous sodium bicarbonate and water, then dried over anhydrous sodium sulfate and evaporated to give a crude brown oil (2.2 g). Purification by column chromatography over silica gel (eluant dichloromethane) gave 3 -hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one (1.0 g; 26.4%) as a pale yellow oil, identical to that obtained by Method (a) above.

reactant | 3-Hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 12.0 mmole, 3.12 g | OC1=CC(CC(C1)C1=C(C(=C(C=C1C)C)OC)C)=O | C16H20O3
reactant | sodium hydride | 12.0 mmole, 0.47 g | [H-].[Na+]
reactant | propionic anhydride | 1.74 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3 -hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one | 1.0 g, 26.4% | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)OC)C)=O)C(CC)=O | C19H24O4
